US05284859
C. 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)-1,2,5,6-tetrahydro-1-methylpyridine oxlate
Sodium borohydride (220 mg, 6 mmol) was added to a solution of 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide (0.92 g, 2.3 mmol) in ethanol (99.9%, 15 ml) and the reaction mixture was stirred at -10° C. for 0.5 h. After evaporation the residue was dissolved solved in water and extracted with ethyl acetate. The dried organic phases were evaporated and the residue purified by column chromatography (Si02, eluent: ethyl acetate/methanol (4:1)). The title compound was crystallized as the oxalate salt from acetone to yield 380 mg. (M.p. 150°-151° C.; M+ : 265; Compound 27).

reactant | Sodium borohydride | 6 mmol, 220 mg | [BH4-].[Na+]
reactant | 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | 2.3 mmol, 0.92 g | [I-].CC(=CCOC=1C(=NSN1)C=1C=[N+](C=CC1)C)C
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(4-(3-methyl-2-butenyloxy)-1,2,5-thiadiazol-3-yl)-1,2,5,6-tetrahydro-1-methylpyridine | CC(=CCOC=1C(=NSN1)C=1CN(CCC1)C)C | C13H19N3OS
